US06465467B1
Step 1: 2-(3-Pyridyloxy)ethanol.
A mixture of 3-hydroxypyridine (2.00 g, 21 mmol), 2-chloroethanol (1.69 g, 21 mmol) and K2CO3 (8.7 g, 63 mmol) in DMF (10 mL) was stirred at 130° C. for 3 h. After cooling, the black mixture was filtered through a short bed of alumina using acetone as eluent to afford a brown oil which was partitioned between water (30 mL) and CH2Cl2 (40 mL). The aqueous phase was extracted with CH2Cl2 (3×40 mL), and the combined organic extracts were dried over MgSO4 and filtered. The filtrate was concentrated to give 0.55 g (19%) of the title compound as a light brown oil. Anal. (C7H9NO2.0.2 H2O) C, H, N.

reactant | 3-hydroxypyridine | 21 mmol, 2.00 g | OC=1C=NC=CC1 | C5H5NO
reactant | 2-chloroethanol | 21 mmol, 1.69 g | ClCCO | C2H5ClO
reactant | K2CO3 | 63 mmol, 8.7 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(3-Pyridyloxy)ethanol | 0.55 g, 19% | N1=CC(=CC=C1)OCCO | C7H9NO2
